US06831175B2
isoquinolin-5-yl trifluoromethanesulfonate
A mixture of 5-hydroxyisoquinoline (1.6 g; 11.0 mmol) and triethylamine (1.38 g; 13.6 mmol) in dichloromethane (25 mL) at 0° C. was treated slowly with triflic anhydride (3.35 g; 12.1 mmol), stirred overnight while warming to room temperature, diluted with dichloromethane, washed twice with water and saturated NH4Cl (aq.), once with water and brine, dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 7% ethyl acetate/dichloromethane to provide the desired product (1.54 g; 50%).

reactant | 5-hydroxyisoquinoline | 11.0 mmol, 1.6 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | triethylamine | 13.6 mmol, 1.38 g | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 12.1 mmol, 3.35 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | isoquinolin-5-yl trifluoromethanesulfonate | 1.54 g, 50% | FC(S(=O)(=O)OC1=C2C=CN=CC2=CC=C1)(F)F | C10H6F3NO3S
